US07199154B2
Step 5: methyl (2Z)-4-({[3-(bromomethyl)phenoxy]carbonyl}oxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoate
To a solution of 470 mg of Ph3P in 15 mL of CH2Cl2 cooled at 0° C. was added 1.75 mL of a 1.0M Br2 solution in CH2Cl2. After 10 min, 340 μL of Hunig's base was added followed by 798 mg of methyl (2Z)-4-({[3-(hydroxymethyl)phenoxy]carbonyl}oxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoate dissolved in 20 mL of CH2Cl2. After 15 min at 0° C., the reaction mixture was warmed to rt for 1 h. The reaction was quenched with H2O, extracted twice with EtOAc and washed with brine, dried over sodium sulfate, evaporated, and purified by flash chromatography (10–50% EtOAc/hexane) to afford 786 mg of the title compound as a colorless oil.

reactant | Ph3P | 470 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | Br2 | 1.0M | BrBr | Br2
reactant | Hunig's base | 340 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl (2Z)-4-({[3-(hydroxymethyl)phenoxy]carbonyl}oxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoate | 798 mg | OCC=1C=C(OC(=O)OC\C(=C(/C(=O)OC)\C2=CC=CC=C2)\C2=CC=C(C=C2)S(=O)(=O)C)C=CC1 | C26H24O8S
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | methyl (2Z)-4-({[3-(bromomethyl)phenoxy]carbonyl}oxy)-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoate | 786 mg | BrCC=1C=C(OC(=O)OC\C(=C(/C(=O)OC)\C2=CC=CC=C2)\C2=CC=C(C=C2)S(=O)(=O)C)C=CC1 | C26H23BrO7S
